US07977338B2
A suspension of 2.2 g of [2-methyl-4-(3-nitro-pyridin-2-ylamino)-phenyl]-acetic acid methyl ester and 220 mg of Raney Ni is stirred for 6.5 hours at rt under a hydrogen atmosphere. The mixture obtained is filtered through a pad of celite and concentrated. [4-(3-Amino-pyridin-2-ylamino)-2-methyl-phenyl]-acetic acid methyl ester is obtained. ES-MS: 272.1 [M+H]+; tR=2.53 min (System 1).

reactant | [2-methyl-4-(3-nitro-pyridin-2-ylamino)-phenyl]-acetic acid methyl ester | 2.2 g | COC(CC1=C(C=C(C=C1)NC1=NC=CC=C1[N+](=O)[O-])C)=O | C15H15N3O4
catalyst | Ni | [Ni] | Ni
product | [4-(3-Amino-pyridin-2-ylamino)-2-methyl-phenyl]-acetic acid methyl ester | COC(CC1=C(C=C(C=C1)NC1=NC=CC=C1N)C)=O | C15H17N3O2
